US04062965
a. Preparation of 1,3-di-n-octyl-2-methyl-imidazole bromide
1 mole of 1-n-octyl-2-methylimidazole is dissolved with 1.1 moles of n-octyl bromide in 500 ml of n-propanol and heated at 105° C for 5 hours. Then, the n-propanol together with the unreacted n-octyl bromide is distilled off and the remaining residue is washed with ether.

reactant | 1-n-octyl-2-methylimidazole | 1 mole | C(CCCCCCC)N1C(=NC=C1)C | C12H22N2
reactant | n-octyl bromide | 1.1 moles | C(CCCCCCC)Br | C8H17Br
solvent | n-propanol | 500 ml | C(CC)O | C3H8O
product | 1,3-di-n-octyl-2-methyl-imidazole bromide | [Br-].C(CCCCCCC)N1C(N(C=C1)CCCCCCCC)C | InChI=1S/C20H40N2.BrH/c1-4-6-8-10-12-14-16-21-18-19-22(20(21)3)17-15-13-11-9-7-5-2;/h18-20H,4-17H2,1-3H3;1H/p-1
